US08754226B2
To a solution of (S)-5-chloro-6-(4-(3-(2-fluoro-4-(methylsulfonyl)phenylamino)-2-oxopyrrolidin-1-yl)piperidin-1-yl)nicotinoyl chloride (0.15 g, 0.28 mmol) in 5 mL of DMF/ACN/THF (1:1:1) was added dimethylamine (2 M solution in THF, 1.4 mL, 2.8 mmol) and the reaction was stirred at ambient temperature for 4 hours. The reaction was diluted with EtOAc (100 mL) and the organic layer was washed with water (20 mL) and brine (20 mL), and the organic layer was dried over MgSO4, and concentrated under vacuum. The material was triturated with isopropanol (about 6 mL) to give (S)-5-chloro-6-(4-(3-(2-fluoro-4-(methylsulfonyl)phenylamino)-2-oxopyrrolidin-1-yl)piperidin-1-yl)-N,N-dimethylnicotinamide (0.059 g, 0.11 mmol, 38% yield). Mass spectrum (apci) m/z=538.0 (M+H).

reactant | (S)-5-chloro-6-(4-(3-(2-fluoro-4-(methylsulfonyl)phenylamino)-2-oxopyrrolidin-1-yl)piperidin-1-yl)nicotinoyl chloride | 0.28 mmol, 0.15 g | ClC=1C(=NC=C(C(=O)Cl)C1)N1CCC(CC1)N1C([C@H](CC1)NC1=C(C=C(C=C1)S(=O)(=O)C)F)=O | C22H23Cl2FN4O4S
reactant | dimethylamine | 2.8 mmol, 2 M, 1.4 mL | CNC | C2H7N
solvent | DMF ACN THF | 5 mL | CN(C)C=O.C(C)#N.C1CCOC1
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | (S)-5-chloro-6-(4-(3-(2-fluoro-4-(methylsulfonyl)phenylamino)-2-oxopyrrolidin-1-yl)piperidin-1-yl)-N,N-dimethylnicotinamide | 0.11 mmol, 0.059 g, 38% yield | ClC=1C(=NC=C(C(=O)N(C)C)C1)N1CCC(CC1)N1C([C@H](CC1)NC1=C(C=C(C=C1)S(=O)(=O)C)F)=O | C24H29ClFN5O4S
